US08466284B2
Methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate
Methyl 6-iodo-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate (SM1, 1.2 g, 2.8 mmol), allylpalladium(II) chloride dimer (0.0072 g), 10% by weight tri(tert-butyl)phosphine in hexane (2.1 mL) and anhydrous DMF (3.0 mL) were stirred until a clear solution was obtained. Propargylaldehyde diethyl acetal (0.44 mL, 3.1 mmol) in anhydrous DMF (2.3 mL) was added, followed by 1,4-diazabicyclo[2.2.2]octane (0.63 g, 5.6 mmol) in small portions. The red solution was purged with dry argon for 5 minutes and then stirred under argon at RT. After 4 h, the solvent was evaporated off using an oil pump. The residue was taken up in acetonitrile (10 mL), filtered through glass-wool and then concentrated with silica. Chromatography on silica with ethyl acetate-heptanes (1:10 and 1:2) as eluents gave the title compound (0.46 g, 37%) as a yellow oil.

reactant | Methyl 6-iodo-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 2.8 mmol, 1.2 g | IC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H10F3IN2O3
reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Propargylaldehyde diethyl acetal | 3.1 mmol, 0.44 mL | C(C)OC(C#C)OCC | C7H12O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 5.6 mmol, 0.63 g | N12CCN(CC1)CC2 | C6H12N2
solvent | hexane | 2.1 mL | CCCCCC | C6H14
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
catalyst | allylpalladium(II) chloride dimer | 0.0072 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
product | Methyl 6-(3,3-diethoxyprop-1-ynyl)-5-methyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxylate | 0.46 g, 37% | C(C)OC(C#CC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C)OCC | C21H21F3N2O5
